US08357712B2
(S)-4-(2-Phenoxy-ethyl)-4,5-dihydro-oxazol-2-ylamine
To a stirred mixture of (S)-2-amino-4-phenoxy-butan-1-ol (175 mg) and K2CO3 (200 mg) in THF (5 ml) under an argon atmosphere was added a solution of cyanogen bromide (123 mg) in THF (1 ml). The mixture was stirred for 18 hours, then water and ethyl acetate were added. The organic layer was washed with water, dried over MgSO4 and evaporated over Isolute® Flash-NH2 silica gel. Chromatography (column: Isolute® Flash-NH2 from Separtis; eluent: ethyl acetate/MeOH=95:5) yielded the title compound as a white solid, (62 mg, 31%); MS (ISP): 207.1 ((M+H)+).

reactant | (S)-2-amino-4-phenoxy-butan-1-ol | 175 mg | N[C@H](CO)CCOC1=CC=CC=C1 | C10H15NO2
reactant | K2CO3 | 200 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | cyanogen bromide | 123 mg | N#CBr | CBrN
reactant | water | O | H2O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-4-(2-Phenoxy-ethyl)-4,5-dihydro-oxazol-2-ylamine | 62 mg, 31% | O(C1=CC=CC=C1)CC[C@@H]1N=C(OC1)N | C11H14N2O2
